US08895544B2
{2-[6-(2-Ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl}-[5-(2-pyrrolidin-1-yl-ethylamino)-pyrazin-2-yl]-methanone
The title compound was prepared from (5-chloropyrazin-2-yl)(2-(6-(2-ethyl-5-fluoro-4-hydroxyphenyl)-1H-indazol-3-yl)-6,7-dihydro-1H-imidazo[4,5-c]pyridin-5(4H)-yl)methanone (50 mg, 96 μmol) and (2-(pyrrolidin-1-yl)ethanamine, 50 mg, 132 μmol) using the method of Example 32. The crude material was purified by HPLC Method E to afford (30 mg, 52%) of the title compound.

reactant | (5-chloropyrazin-2-yl)(2-(6-(2-ethyl-5-fluoro-4-hydroxyphenyl)-1H-indazol-3-yl)-6,7-dihydro-1H-imidazo[4,5-c]pyridin-5(4H)-yl)methanone | 96 μmol, 50 mg | ClC=1N=CC(=NC1)C(=O)N1CC2=C(CC1)NC(=N2)C2=NNC1=CC(=CC=C21)C2=C(C=C(C(=C2)F)O)CC | C26H21ClFN7O2
reactant | 2-(pyrrolidin-1-yl)ethanamine | N1(CCCC1)CCN | C6H14N2
product | {2-[6-(2-Ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl}-[5-(2-pyrrolidin-1-yl-ethylamino)-pyrazin-2-yl]-methanone | 30 mg, 52% | C(C)C1=C(C=C(C(=C1)O)F)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CN(CC2)C(=O)C2=NC=C(N=C2)NCCN2CCCC2)N1 | C32H34FN9O2
